US04349684
8-[3-(4-Methylphenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] caprylic acid
The product is produced as described in example 18 from 18.1 g of 8-[3-(4-methylphenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] caprylic acid methyl ester and 1.8 g of NaOH in 90 cc. of methanol. Further purification by chromatography on silicic acid gel using chloroform as eluant.

reactant | 8-[3-(4-methylphenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] caprylic acid methyl ester | 18.1 g | COC(CCCCCCCN1C(N(C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C)=O)=O | C25H30N2O3
reactant | NaOH | 1.8 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 8-[3-(4-Methylphenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] caprylic acid | CC1=CC=C(C=C1)N1C(N(C=C1C1=CC=CC=C1)CCCCCCCC(=O)O)=O | C24H28N2O3
